US07199239B2
Intermediate 55: Ethyl {4-[((2-methoxyethyl){6-[4-(trifluoromethyl) phenyl]pyrazin-2-yl}amino)methyl]-2-methylphenoxy}acetate
A mixture of 2-bromo-6-[4-(trifluoromethyl)phenyl]pyrazine (0.5 g, 1.65 mmol), N,N-diisopropylethylamine (0.29 mL, 1.65 mmol) and ethyl (4-{[(2-methoxyethyl)amino]methyl}-2-methylphenoxy)acetate (0.7 g, 2.47 mmol) was heated at 100° C. in a sealed reactivial for 20 h. The reaction mixture was then allowed to come to room temperature, and the residue was diluted with water (40 mL) and extracted CH2Cl2 (2×40 mL). The organic extract was passed through a hydrophobic frit and concentrated in vacuo. Purification by Biotage™ chromatography (Silica, 90 g) eluting 1:19–1:4 EtOAc:cyclohexane afforded the title compound as a pale yellow oil (0.16 g).

reactant | 2-bromo-6-[4-(trifluoromethyl)phenyl]pyrazine | 1.65 mmol, 0.5 g | BrC1=NC(=CN=C1)C1=CC=C(C=C1)C(F)(F)F | C11H6BrF3N2
reactant | N,N-diisopropylethylamine | 1.65 mmol, 0.29 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl (4-{[(2-methoxyethyl)amino]methyl}-2-methylphenoxy)acetate | 2.47 mmol, 0.7 g | COCCNCC1=CC(=C(OCC(=O)OCC)C=C1)C | C15H23NO4
solvent | water | 40 mL | O | H2O
product | Ethyl {4-[((2-methoxyethyl){6-[4-(trifluoromethyl) phenyl]pyrazin-2-yl}amino)methyl]-2-methylphenoxy}acetate | 0.16 g | COCCN(C1=NC(=CN=C1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C26H28F3N3O4
